US05272128
2-Isopropylbenzenesulfonyl chloride
A mixture of 2-methoxybenzenesulfonyl chloride and 5-chloro-2-methoxybenzenesulfonyl chloride, which results from ring chlorination, was prepared from 2-methoxythiophenol.

reactant | 2-methoxybenzenesulfonyl chloride | COC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 5-chloro-2-methoxybenzenesulfonyl chloride | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
reactant | 2-methoxythiophenol | COC1=C(C=CC=C1)S | C7H8OS
product | 2-Isopropylbenzenesulfonyl chloride | C(C)(C)C1=C(C=CC=C1)S(=O)(=O)Cl | C9H11ClO2S
